US04925879
A 0.25M solution of 3-[1-(ethoxy)ethoxy]propyllithium [prepared from 3-[1-(ethoxy)ethoxy]propyl bromide (20 g), lithium strips (1.6 g) and ether (75 ml)] was added to a solution of 1-(3,4-dichlorophenyl)cyclobutanecarbonitrile (4.44 g) in dry ether (100 ml) at 0° C. under argon. The mixture was stirred for 16 hours at ambient temperature and propan-2-ol (50 ml) and then a solution of sodium borohydride (1.5 g) in propan-2-ol (60 ml) were added and the mixture stirred at ambient temperature for 2 days and then heated under reflux for 21/2 hours. The mixture was cooled, poured into water (500 ml) and excess concentrated hydrochloric acid was added. The mixture was heated at 90°-95° C. for one hour, cooled, basified and extracted with ether. The extract was dried and evaporated to given an oil which was treated with a further mixture of sodium borohydride (1 g) and propan-2-ol (50 ml) at reflux for 41/2 hours. The mixture was cooled, and water was added and the resulting mixture extracted with ether. The extract was dried, and evaporated to give an oil which was distilled (170° C./0.65-0.25 mm Hg). The distillate was dissolved in propan-2-ol, 5N-hydrochloric acid was added and the solution evaporated to dryness. The residue was dried by azeotropic distillation with propan-2-ol to give a solid which was triturated with propan-2-ol to give 4-amino-4-[1-(3,4-dichlorophenyl)cyclobutyl]butan-1-ol hydrochloride (m.p. 211° C. (dec)-shrinks 203° C.).

reactant | 3-[1-(ethoxy)ethoxy]propyllithium | 75 ml, 20 g | C(C)OC(C)OCCC[Li]
reactant | 1-(3,4-dichlorophenyl)cyclobutanecarbonitrile | 4.44 g | ClC=1C=C(C=CC1Cl)C1(CCC1)C#N | C11H9Cl2N
reactant | sodium borohydride | 1.5 g | [BH4-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | propan-2-ol | 60 ml | CC(C)O | C3H8O
solvent | propan-2-ol | 50 ml | CC(C)O | C3H8O
solvent | water | 500 ml | O | H2O
product | 4-amino-4-[1-(3,4-dichlorophenyl)cyclobutyl]butan-1-ol hydrochloride | Cl.NC(CCCO)C1(CCC1)C1=CC(=C(C=C1)Cl)Cl | InChI=1S/C14H19Cl2NO.ClH/c15-11-5-4-10(9-12(11)16)14(6-2-7-14)13(17)3-1-8-18;/h4-5,9,13,18H,1-3,6-8,17H2;1H
